US04039575
Following a procedure similar to that described in Example 1 but using 2.3 g. sodium in 300 ml. dry acetone, 16.4 g. heptanamidine hydrochloride, and 21.9 g. 4-(trifluoromethoxy)phenyl isothiocyanate [b.p. 88° C./7 mm.; prepared from 4-(trifluoromethoxy)aniline] in 120 ml. dry acetone there was obtained 1-[4-(trifluoromethoxy)phenyl]-3-(heptanimidoyl)-2-thiourea, m.p. 90°-91° C. (from benzene-n-pentane); hydrochloride (25.3 g.), m.p. 171°-172° C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 4-(trifluoromethoxy)phenyl isothiocyanate | FC(OC1=CC=C(C=C1)N=C=S)(F)F | C8H4F3NOS
solvent | benzene n-pentane | C1=CC=CC=C1.CCCCC
product | 1-[4-(trifluoromethoxy)phenyl]-3-(heptanimidoyl)-2-thiourea | FC(OC1=CC=C(C=C1)NC(=S)NC(CCCCCC)=N)(F)F | C15H20F3N3OS
